US08809525B2
5,6-Diphenyl-1,2,4-triazin-3-amine (86.0 mg, 42%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.21 g, 0.8 mmol) and phenyl boronic acid (0.11 g, 0.92 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.8 mmol, 0.21 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | phenyl boronic acid | 0.92 mmol, 0.11 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 5,6-Diphenyl-1,2,4-triazin-3-amine | 86.0 mg, 42% | C1(=CC=CC=C1)C=1N=C(N=NC1C1=CC=CC=C1)N | C15H12N4
